US07384930B2
4-Oxo-2-phenyl-1, 3, 8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid [(R)-9-(2,2-dimethyl-propyl)-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohepta[e]inden-7-yl]-amide.
2-Phenyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate (55 mg, 0.16 mmol) and (R)-7-amino-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one (40 mg, 0.14 mmol) were reacted in a manner analogous to the preparation of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [8-oxo-9-(2-piperidin-1-yl-ethyl)-3,6,7,8,9,10-hexahydro-2,3,9-triaza-(R)-cyclohepta[e]inden-7-yl]-amide. C18 preparatory HPLC afforded the title compound as white solid in 25% yield. High resolution MS m/e (M+H)+=542.2888.

reactant | 2-Phenyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate | 0.16 mmol, 55 mg | FC(C(=O)O)(F)F.C1(=CC=CC=C1)C1=NC2(C(N1)=O)CCNCC2
reactant | (R)-7-amino-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 0.14 mmol, 40 mg | N[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)CC(C)(C)C | C16H22N4O
product | 4-Oxo-2-phenyl-1, 3, 8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid [(R)-9-(2,2-dimethyl-propyl)-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-cyclohepta[e]inden-7-yl]-amide | 25% yield | CC(CN1C([C@@H](CC2=C(C=3C=NNC3C=C2)C1)NC(=O)N1CCC2(C(NC(=N2)C2=CC=CC=C2)=O)CC1)=O)(C)C | C30H35N7O3
